US07772226B2
(f) t-Butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-hydroxymethyl-1H-imidazol-2-yl]piperazine-1-carboxylate
0.187 g of mercury (II) acetate and 0.090 of sodium borohydride were added to 8 ml of an ethanol solution containing 0.265 g of t-butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-methylsulfanyl carbonyl-1H-imidazol-2-yl]piperazine-1-carboxylate at 0° C., and the mixture was stirred at room temperature for 4 hours. After 0.187 g of mercury (II) acetate and 0.090 of sodium borohydride had been added to the solution, the mixture was stirred at room temperature for 15 hours. 100 ml of ethyl acetate and 50 ml of 0.5N hydrochloric acid were added to the solution, and the organic layer was washed successively with 50 ml of water and 50 ml of a saturated sodium chloride solution. The mixture was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. 0.172 g of the starting material was collected from the fraction eluted with hexane-ethyl acetate (4:1). Then, 0.061 g of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (1:4).

reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethanol | 8 ml | C(C)O | C2H6O
reactant | t-butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-methylsulfanyl carbonyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.265 g | C(C#CC)N1C(=NC(=C1C(=O)OCC)C(=O)SC)N1CCN(CC1)C(=O)OC(C)(C)C | C21H30N4O5S
reactant | hydrochloric acid | 0.5N, 50 ml | Cl | ClH
catalyst | mercury (II) acetate | 0.187 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
catalyst | mercury (II) acetate | 0.187 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | t-Butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-hydroxymethyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.061 g | C(C#CC)N1C(=NC(=C1C(=O)OCC)CO)N1CCN(CC1)C(=O)OC(C)(C)C | C20H30N4O5
